US09056859B2
To a solution of (3-fluoro-4-nitrophenyl)acetic acid (1 g, 5 mmol) in 30 mL of EtOAc was added 180 mg of Pd/C was stirred at room temperature under H2 atmosphere overnight. The reaction mixture was filtrated and concentrated to give (4-amino-3-fluorophenyl)acetic acid.

reactant | (3-fluoro-4-nitrophenyl)acetic acid | 5 mmol, 1 g | FC=1C=C(C=CC1[N+](=O)[O-])CC(=O)O | C8H6FNO4
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 180 mg | [Pd] | Pd
product | (4-amino-3-fluorophenyl)acetic acid | NC1=C(C=C(C=C1)CC(=O)O)F | C8H8FNO2
